US07405221B2
2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine from Reference Example 3 was reacted with 4-methoxyphenol according to the procedure described in Example 74 to afford 2-(4-methoxyphenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine: HPLC/MS: m/e=457 (M++1); Rt=4.50 min; 1H-NMR 500 MHz (CDCl3): δ 3.85 (s, 3H), 6.95 (d, J=9 Hz, 2H), 7.05. (d, J=9 Hz, 2H), 7.21 (d, J=9 Hz, 2H), 7.25-7.30 (m, 4H), 7.39 (d, J=2 Hz, 1H), 8.60 (s, 1H).

reactant | 2-Methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | 2-(4-methoxyphenyloxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | COC1=CC=C(C=C1)OC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C23H15Cl3N2O2
